datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:23])[H:24])[H:22])=[C:17]([C:18]([H:26])([H:27])[H:28])[H:25])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])([C:15](=[C:16]([H:23])[H:24])[H:22])[C:17]([C:18]([H:26])([H:27])[H:28])[H:25])[H:5],43.681
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:7],16.8615
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])[H:5].[H:4][H:12],51.42136
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([C:7](=[C:8]([C:9]([H:19])[H:20])[H:18])[H:17])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([H:15])([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:10],88.9518
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[O:6][O:7]>>[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5][O:6][O:7],0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:9])[H:10].[O:7][O:8][H:19],64.852
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:6],29.4135
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[H:10]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][C:7]([H:8])([H:9])[H:10],34.7272
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])[H:7])([H:5])[H:6],47.6558
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][C:11](=[C:12]([H:14])[H:15])[H:13],0.0
[O:0]=[C:1]([C:2](=[C:3]([O:4][H:8])[H:7])[H:6])[H:5].[O:9][H:10]>>[H:5][O:9][H:10].[O:0]=[C:1][C:2](=[C:3]([O:4][H:8])[H:7])[H:6],-1.42256
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26],14.644
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:15])[H:7])([H:5])[H:6].[S:12]=[C:13][S:14][H:16],171.962
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:24]([C:23]([H:26])([H:27])[H:28])([C:25]([H:30])([H:31])[H:32])[H:29])[H:13])([H:11])[H:12],15.8574
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([C:1]([O:2][O:3][H:9])[H:8])([H:4])([H:5])[H:6].[H:7][O:10][H:11],-1.079472
[C:0]([C:1]([O:2][O:3][H:10])([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])[H:9])([H:7])[H:8].[O:2][O:3][H:10],63.1784
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8](=[O:9])[H:10]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][C:8](=[O:9])[H:10],71.16984
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],59.5383
